US08877760B2
A mixture of (R)-2-(6-chloro-5-cyanopyrazin-2-ylamino)butanamide (90 mg, 0.375 mmol), 3-methylisothiazol-5-amine hydrochloride (70 mg, 0.464 mmol), K2CO3 (130 mg, 0.942 mmol), BINAP (30 mg, 0.048 mmol) and Pd(OAc)2 (15 mg, 0.066 mmol) in dioxane (2 mL) was degassed with Ar, then was stirred at 110 C for 20 h. EtOAc and H2O were added. Organic phase was separated, dried over Na2SO4, concentrated in vacuo to give (R)-2-(5-cyano-6-(3-methylisothiazol-5-ylamino)pyrazin-2-ylamino)butanamide (106 mg).

reactant | (R)-2-(6-chloro-5-cyanopyrazin-2-ylamino)butanamide | 0.375 mmol, 90 mg | ClC1=C(N=CC(=N1)N[C@@H](C(=O)N)CC)C#N | C9H10ClN5O
reactant | 3-methylisothiazol-5-amine hydrochloride | 0.464 mmol, 70 mg | Cl.CC1=NSC(=C1)N
reactant | K2CO3 | 0.942 mmol, 130 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | BINAP | 0.048 mmol, 30 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(OAc)2 | 0.066 mmol, 15 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | (R)-2-(5-cyano-6-(3-methylisothiazol-5-ylamino)pyrazin-2-ylamino)butanamide | 106 mg | C(#N)C=1N=CC(=NC1NC1=CC(=NS1)C)N[C@@H](C(=O)N)CC | C13H15N7OS
